US08003662B2
Step B: Preparation of 1-(4-fluorophenyl)-3-methoxypyrazin-2(1H)-one:
K2CO3 (1.09 g, 7.85 mmol) and 10% Pd/C (0.42 g, 0.39 mmol) were added to 5-chloro-1-(4-fluorophenyl)-3-methoxypyrazin-2(1H)-one (2.0 g, 7.85 mmol) in MeOH (100 mL) at room temperature. Hydrogen gas was treated with balloon to the reaction mixture. After 6 hours stirring, the reaction mixture was filtered with MeOH and concentrated under reduced pressure. The crude was treated with CH2Cl2, washed with water, dried over MgSO4, and concentrated to give the desired product (1.55 g, 90%). LRMS (ESI pos) m/e 221.0 (M+1). 1H-NMR (400 MHz, CDCl3) δ 7.49 (m, 2H), 7.27 (t, 2H), 7.10 (d, 1H), 6.98 (d, 1H), 3.98 (s, 3H); 19F-NMR (376 MHz, CDCl3) δ −114.7.

reactant | K2CO3 | 7.85 mmol, 1.09 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-chloro-1-(4-fluorophenyl)-3-methoxypyrazin-2(1H)-one | 7.85 mmol, 2.0 g | ClC=1N=C(C(N(C1)C1=CC=C(C=C1)F)=O)OC | C11H8ClFN2O2
reactant | Hydrogen | [H][H] | H2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 0.39 mmol, 0.42 g | [Pd] | Pd
product | 1-(4-fluorophenyl)-3-methoxypyrazin-2(1H)-one | 1.55 g, 90% | FC1=CC=C(C=C1)N1C(C(=NC=C1)OC)=O | C11H9FN2O2
